US04748171
7β-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid (240 mg) was suspended in methylene chloride (4 ml), followed by an addition of N-methyl-N-(trimethylsilyl) trifluoroacetamide (330 μl). The resulting mixture was stirred at room temperature for 30 minutes. After ice-cooling, iodotrimethylsilane (200 μl) was added to the solution, and the resulting mixture was stirred at room temperature for 15 minutes. The reaction mixture was concentrated under reduced pressure to obtain the silylated derivative of 7β-[(Z)-2-(2-aminothiazol-4yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylic acid.

reactant | 7β-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 240 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=N/OC | C16H17N5O7S2
reactant | N-methyl-N-(trimethylsilyl) trifluoroacetamide | 330 μl | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | iodotrimethylsilane | 200 μl | I[Si](C)(C)C | C3H9ISi
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 7β-[(Z)-2-(2-aminothiazol-4yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)O)C1=O)=N/OC | C14H14IN5O5S2
